US06670348B1
Unsymmetrical Primary/Secondary diamine: 6-(N-methyl-N-Carbobenzyloxyamino)-hexan-1-ol was synthesized as follows. To a solution of 6-bromo-hexan-1-ol (2.0 g, 17.4 mmol) was added 50 mL of a 2.0 M solution of methylamine (˜10 eq.) in THF and the reaction was allowed to stir overnight. The reaction mixture was diluted with 30 mL of ether, filtered, and concentrated. The crude material was then diluted in 30 mL of ether and 50 mL of saturated NaHCO3 solution. Carbobenzyloxychloride (2.5 g, 51 mmol) was then added and the reaction mixture was stirred vigorously for 2 hours. The reaction was then diluted with 100 mL of ether, washed with brine, dried over MgSO4, filtered and concentrated. Silica gel chromatography (10-50% EtOAc:hexanes) afforded 3.1 g (76%) of product as a clear oil.

reactant | 6-bromo-hexan-1-ol | 17.4 mmol, 2.0 g | BrCCCCCCO | C6H13BrO
reactant | methylamine | ˜10 eq. | CN | CH5N
reactant | Carbobenzyloxychloride | 51 mmol, 2.5 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 6-(N-methyl-N-Carbobenzyloxyamino)-hexan-1-ol | CN(C(=O)OCC1=CC=CC=C1)CCCCCCO | C15H23NO3
